US04416876
6,6-dimethyl-6-sila-hexadecan-1-ol
Under nitrogen, 17.1 g (56.9 mmol) of 6,6-dimethyl-6-sila-n-hexadecanoic acid, dissolved in 20 ml of absolute tetrahydrofuran, is added dropwise to 5.4 g (142 mmol) of lithium aluminum hydride in 150 ml of absolute tetrahydrofuran (caution being exercised due to hydrogen evolution). The resultant mixture is stirred at 60° for 18 hrs., then cooled to about 10°; and injected into a cold (about 10°) saturated aqueous of sodium-potassium tartrate. Dichloromethane is added and the mixture acidified with dilute hydrochloric acid (2 N). The organic phase is separated, washed with saturated aqueous sodium bicarbonate solution, then dried over anh. sodium sulfate, filtered and the filtrate concentrated to obtain the crude title product of this step as an oily residue. The oily residue is distilled in a kugelrohr apparatus and the fraction collecting at 108° to 115° and 0.19 to 0.13 mm Hg to obtain refined title product of this step.

reactant | 6,6-dimethyl-6-sila-n-hexadecanoic acid | 56.9 mmol, 17.1 g | C[Si](CCCCC(=O)O)(CCCCCCCCCC)C | C17H36O2Si
reactant | lithium aluminum hydride | 142 mmol, 5.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium-potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | Dichloromethane | ClCCl | CH2Cl2
product | 6,6-dimethyl-6-sila-hexadecan-1-ol | C[Si](CCCCCO)(CCCCCCCCCC)C | C17H38OSi
